US03979405
2-[(p-chloro-phenoxy)-isopropyl]-4,4-bis-hydroxy-methyl-2-oxazoline
21.45 g. (0.1 moles) of 2-(p-chloro-phenoxy)-2-methyl-propionic acid and 15.14 g. (0.125 moles) of 2-amino-2-hydroxy-methyl-1,3-propane-diol are boiled for 12 hours in 900 ml. of anhydrous xylol in an apparatus provided with a water-separating column. The water formed during the course of the reaction is accumulated as an azeotropic mixture in the water-separating column from where it is removed from time to time. When no more water is evolved from the system the boiling is stopped. The hot xylene solution is discharged from the insoluble part. After cooling the white crystals precipitated from the xylene solution are filtered off and washed with benzene. After drying, the croude product obtained (21.8 g., Mp. 133°-135°C) is recrystallized from 70% aqueous ethanol. The pure product (12 g., yield 40%) has a mp. of 141.5°-142.5°C.

reactant | 2-(p-chloro-phenoxy)-2-methyl-propionic acid | 0.1 moles | ClC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H11ClO3
reactant | 2-amino-2-hydroxy-methyl-1,3-propane-diol | 0.125 moles | NC(C(O)C)(CO)O | C4H11NO3
reactant | xylol | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | O | H2O
product | 2-[(p-chloro-phenoxy)-isopropyl]-4,4-bis-hydroxy-methyl-2-oxazoline | yield 40% | ClC1=CC=C(OC(C)(C)C=2OC(C(N2)(O)O)C)C=C1 | C13H16ClNO4
